### PR TITLE
chore(CombinatoryLogic): use Relation infrastructure

### LINKED ISSUE #333: SKI.ParallelReduction should use standard relation notation
Notation for parallel reduction -/

https://github.com/leanprover/cslib/blob/939bd13108ef482e217efda27fd01d9f57fe8a1b/Cslib/Languages/CombinatoryLogic/Confluence.lean#L62-L63

### LINKED ISSUE #334: inline `SKI.CommonReduct` as `Relation.MJoin Red`
Express that two terms have a reduce to a common term. -/

https://github.com/leanprover/cslib/blob/939bd13108ef482e217efda27fd01d9f57fe8a1b/Cslib/Languages/CombinatoryLogic/Defs.lean#L115-L116

### LINKED ISSUE #335: `SKI.redexFree_iff` and related theorems should use `Relation.Normal`
A term is redex free iff it has no one-step reductions. -/

https://github.com/leanprover/cslib/blob/939bd13108ef482e217efda27fd01d9f57fe8a1b/Cslib/Languages/CombinatoryLogic/Evaluation.lean#L147-L148

### PR DESCRIPTION
**Pull request by thomaskwaring**
... plus some small golfing & style.

closes #333 
closes #334 
closes #335

### CODE REVIEW

File: Cslib/Languages/CombinatoryLogic/Basic.lean [hunk 1]
```diff
@@ -107,37 +107,29 @@ theorem Polynomial.elimVar_correct {n : Nat} (Γ : SKI.Polynomial (n + 1)) {ys :
...
-    · simp_rw [SKI.Polynomial.eval]
-      replace hi := Nat.eq_of_lt_succ_of_not_lt i.isLt hi
-      simp_rw [Fin.getElem_fin, hi]
-      have app_len : (ys ++ [z]).length = n+1 := by simpa
+    · replace hi := Nat.eq_of_lt_succ_of_not_lt i.isLt hi
+      have app_len : (ys ++ [z]).length = n + 1 := by simpa
       have : (ys ++ [z])[n]'(by rw [app_len]; exact Nat.lt_add_one n) = z := by
         rw [List.getElem_append_right] <;> simp [hys]
-      rw [this]
+      simp_rw [SKI.Polynomial.eval, Fin.getElem_fin, hi, this]
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/Basic.lean:117]: I think this might be a bit slower, but note that this entire branch can be:
```lean
  | n, .var i =>
    have : n < (ys ++ [z]).length := by grind
    have : (ys ++ [z])[n] = z := by grind
    grind [elimVar, eval, Nat.mod_eq_of_lt]
```
(This seems like a nice use case for the interactive `grind` mode, but I'm not sure how to tell it to split the `if`.)

File: Cslib/Languages/CombinatoryLogic/Confluence.lean [hunk 2]
```diff
@@ -112,15 +108,15 @@ Irreducibility for the (partially applied) primitive combinators.
...
   cases h
   rfl
 
-lemma K_irreducible (a : SKI) (h : K ⇒ₚ a) : a = K := by
+lemma K_irreducible (a : SKI) (h : K ⭢ₚ a) : a = K := by
   cases h
   rfl
 
-lemma Ka_irreducible (a c : SKI) (h : K ⬝ a ⇒ₚ c) : ∃ a', a ⇒ₚ a' ∧ c = K ⬝ a' := by
+lemma Ka_irreducible (a c : SKI) (h : (K ⬝ a) ⭢ₚ c) : ∃ a', a ⭢ₚ a' ∧ c = K ⬝ a' := by
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/Confluence.lean:119]: Since we're golfing... if you change the the ordering of tactics in these `*_irreducible` theorems a bit, `use` will infer the `rfl` parts, for example:
```lean
lemma Ka_irreducible (a c : SKI) (h : (K ⬝ a) ⭢ₚ c) : ∃ a', a ⭢ₚ a' ∧ c = K ⬝ a' := by
  cases h
  case refl => use a, .refl a
  case par b a' h _ => rw [K_irreducible b h]; use a'
```
More generally, adjacent `use` can be combined with the terms separated by commas.

File: Cslib/Languages/CombinatoryLogic/Basic.lean (hunk 1 above)
Comment (chenson2018) [reply Cslib/Languages/CombinatoryLogic/Basic.lean:117]: Also style-wise, you can be a bit more terse by making use of the namespace you're in, like above where I write `.var` instead of `SKI.Polynomial.var`. Maybe you know this already and did so for readability, but I personally like the shorter style

Comment (thomaskwaring) [reply Cslib/Languages/CombinatoryLogic/Basic.lean:117]: it seems noticeably slower to me so i might leave as-is, thanks though!

File: Cslib/Languages/CombinatoryLogic/Confluence.lean (hunk 2 above)
Comment (thomaskwaring) [reply Cslib/Languages/CombinatoryLogic/Confluence.lean:119]: nice! thanks
